US09238640B2
To a solution of 4-hydroxy-3,5-dimethyl benzaldehyde (5.00 g, 33.3 mmol) in DMF (30 mL) were added 4-bromo-butan-1-ol (6.11 g, 39.9 mmol) and Cs2CO3 (16.2 g, 50.0 mmol). The reaction mixture was stirred at room temperature for 48 hours, then water (100 mL) was added, and the products were extracted with ethyl acetate (2×200 mL). The combined organic phase was washed with water (100 mL), then brine (100 mL), and dried over anhydrous Na2SO4. Solvent was removed and the crude product was purified by the Simpliflash system, using 40% ethyl acetate in hexane as eluent, to give 4-(4-hydroxybutoxy)-3,5-dimethyl benzaldehyde as a colorless liquid. Yield: 0.66 g (7%).

reactant | 4-hydroxy-3,5-dimethyl benzaldehyde | 33.3 mmol, 5.00 g | OC1=C(C=C(C=O)C=C1C)C | C9H10O2
reactant | 4-bromo-butan-1-ol | 39.9 mmol, 6.11 g | BrCCCCO | C4H9BrO
reactant | Cs2CO3 | 50.0 mmol, 16.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(4-hydroxybutoxy)-3,5-dimethyl benzaldehyde | OCCCCOC1=C(C=C(C=O)C=C1C)C | C13H18O3
